US07897609B2
3-Methoxypropionyl chloride (24.90 g, 203 mmol) was added over a period of five minutes to a mixture of 1-[(3-amino-7-bromo[1,5]naphthyridin-4-yl)amino]-2-methylpropan-2-ol (52.70 g, 169 mmol), chloroform (100 mL), and acetonitrile (530 mL). The reaction mixture was stirred at room temperature overnight. The precipitated solid was isolated by filtration, washed well with acetonitrile, and then dried to provide 60.10 g of N-{7-bromo-4-[(2-hydroxy-2-methylpropyl)amino][1,5]naphthyridin-3-yl}-3-methoxypropionamide hydrochloride as a brown solid, mp 206-208° C.

reactant | 3-Methoxypropionyl chloride | 203 mmol, 24.90 g | COCCC(=O)Cl | C4H7ClO2
reactant | 1-[(3-amino-7-bromo[1,5]naphthyridin-4-yl)amino]-2-methylpropan-2-ol | 169 mmol, 52.70 g | NC=1C=NC2=CC(=CN=C2C1NCC(C)(O)C)Br | C12H15BrN4O
reactant | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
solvent | acetonitrile | 530 mL | C(C)#N | C2H3N
product | N-{7-bromo-4-[(2-hydroxy-2-methylpropyl)amino][1,5]naphthyridin-3-yl}-3-methoxypropionamide hydrochloride | 60.10 g | Cl.BrC1=CN=C2C(=C(C=NC2=C1)NC(CCOC)=O)NCC(C)(C)O | InChI=1S/C16H21BrN4O3.ClH/c1-16(2,23)9-20-15-12(21-13(22)4-5-24-3)8-18-11-6-10(17)7-19-14(11)15;/h6-8,23H,4-5,9H2,1-3H3,(H,18,20)(H,21,22);1H
